US04948804
1-benzoyl 5-isopropyloxy pyrrolidin-2-one
11.7 cm3 of a 1.6M solution of n-butyllithium in hexane is added at -70° C. to a solution of 2.5 g of 5-isopropyloxy pyrrolidin-2-one in 60 cm3 of tetrahydrofuran, while maintaining the temperature between -70° C. and -65° C. Agitation is carried out for 30 minutes under these conditions then a solution of 2.46 g of benzoyl chloride in 8 cm3 of tetrahydrofuran is added, maintaining the temperature between -65° C. and -70° C. The temperature is allowed to return to the ambient over 2 hours. After evaporation to dryness and then chromatography on silica (eluent: ethyl acetate-n-hexane 1-3), 2.78 g of the product sought is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-isopropyloxy pyrrolidin-2-one | 2.5 g | C(C)(C)OC1CCC(N1)=O | C7H13NO2
reactant | benzoyl chloride | 2.46 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-isopropyloxy pyrrolidin-2-one | 2.78 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OC(C)C)=O | C14H17NO3
